US06124323
1-(2-(4-Chlorophenoxy)ethyl)-4-(4-methylbenzyl)piperidine hydrochloride
The title compound was prepared from 4-(4-methylbenzyl)piperidine hydrochloride (600 mg, 2.66 mmol), 2-(4-chlorophenoxy)ethyl bromide (658 mg, 2.79 mmol) and K2CO3 (754 mg, 5.45 mmol) in CH3CN (50 mL) as colorless flakes (661 mg): mp 201-203° C.; 1H NMR (CDCl3) 1.60-2.12 (m, 5H), 2.31 (s, 3H), 2.58 (d, J=7.2 Hz, 2H), 2.63-2.82 (m, 2H), 3.20-3.50 (m, 2H), 3.58-3.70 (m, 2H), 4.53 (t, J=4.2 Hz, 2H), 6.80 (d, J=9.3 Hz, 2H), 7.00 (d, J=7.5 Hz, 2H), 7.09 (d, J=7.8 Hz, 2H), 7.24 (d, J=8.7 Hz, 2H), 12.60 (b, 1H).

reactant | 4-(4-methylbenzyl)piperidine hydrochloride | 2.66 mmol, 600 mg | Cl.CC1=CC=C(CC2CCNCC2)C=C1
reactant | 2-(4-chlorophenoxy)ethyl bromide | 2.79 mmol, 658 mg | ClC1=CC=C(OCCBr)C=C1 | C8H8BrClO
reactant | K2CO3 | 5.45 mmol, 754 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 1-(2-(4-Chlorophenoxy)ethyl)-4-(4-methylbenzyl)piperidine hydrochloride | Cl.ClC1=CC=C(OCCN2CCC(CC2)CC2=CC=C(C=C2)C)C=C1 | InChI=1S/C21H26ClNO.ClH/c1-17-2-4-18(5-3-17)16-19-10-12-23(13-11-19)14-15-24-21-8-6-20(22)7-9-21;/h2-9,19H,10-16H2,1H3;1H
